### PR TITLE
Bump to Lean/Mathlib v4.32.0

### PR DESCRIPTION
**Pull request by ldct**
Upgrades the toolchain and dependencies from **v4.31.0 → v4.32.0** and adapts the proofs to the Mathlib API changes. 

### Dependency bumps
- `lean4` v4.31.0 → **v4.32.0** (`lean-toolchain`)
- `mathlib`, `leancert` → **v4.32.0**
- `LeanArchitect`, `PrimeCert` → **v4.32.0-rc1**

### Proof adaptations, grouped by the Mathlib v4.32 change that caused them
- **Now upstreamed in Mathlib → removed local duplicates:** `Complex.differentiable_ofReal` (`Auxiliary`), `riemannZeta_conj` (`ZetaConj`), and `AntitoneOn.{sum_range_le_integral, tsum_add_one_le_integral, tsum_le_integral}` (`Mertens`).
- **Combinators (`.sub`/`.neg`/`.mul`/`.inv₀`/`.pow` on `Continuous(On)`/`Measurable`) now yield function-level `Pi` forms** instead of pointwise; reduced via `Pi.*_def` / `Function.comp_def` across `ResidueCalcOnRectangles`, `RectangleArgumentPrinciple`, `KadiriEq12Foundations`, `DivisorConvergence`, `WeierstrassFactor`, `DigammaSeries`, `RiemannZetaAbelKernel`, `CH2_part1`, `PVIdentity`, `Erdos392`, `BKLNW_app`, `ZetaAppendix`.
- **Disambiguation / misc:** qualify `Finset.sum_range_succ` and `Nat.Prime` (`Erdos392`); `` `(← $e:term) `` quotation annotation (`AdditiveCombination`); assorted `rewrite`/`positivity`/`linarith` repairs (`RiemannZetaPartialSum`, `Consequences`, `RamanujanCalculations`, `FKS2`).

Pre-existing `sorry`s (e.g. in `FKS2`) are untouched.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: PrimeNumberTheoremAnd/Auxiliary.lean [hunk 1]
```diff
@@ -22,9 +22,6 @@ lemma deriv_ofReal (x : ℝ) : deriv ofReal x = 1 :=
 lemma differentiableAt_ofReal (x : ℝ) : DifferentiableAt ℝ ofReal x :=
   (hasDerivAt_ofReal x).differentiableAt
 
-lemma differentiable_ofReal : Differentiable ℝ ofReal :=
```
Comment (ldct) [inline PrimeNumberTheoremAnd/Auxiliary.lean:25]: upstreamed in https://github.com/leanprover-community/mathlib4/pull/41176

File: PrimeNumberTheoremAnd/IEANTN/Mertens.lean [hunk 2]
```diff
@@ -35,50 +35,6 @@ theorem one_eq_o_log_log : (fun _ ↦ (1:ℝ)) =o[atTop] (fun x ↦ log (log x))
...
 
-section IntegralTest
-
-/-! The integral test for convergence. -/
-
-open MeasureTheory Set
-
-variable {f : ℝ → ℝ}
-
-theorem AntitoneOn.sum_range_le_integral (N : ℕ) (anti : AntitoneOn f (Icc 0 (N : ℝ)))
```
Comment (ldct) [inline PrimeNumberTheoremAnd/IEANTN/Mertens.lean:46]: upstreamed in https://github.com/leanprover-community/mathlib4/pull/40588

File: PrimeNumberTheoremAnd/ZetaConj.lean [hunk 3]
```diff
@@ -103,18 +103,6 @@ theorem conj_riemannZeta_conj (s : ℂ) : conj (riemannZeta (conj s)) = riemannZ
...
-@[blueprint
-  (title := "riemannZeta-conj")
-  (statement := /--
-    Conjugation symmetry of the Riemann zeta function. Let $s \in \mathbb{C}$. Then
-    $$\zeta(\overline{s}) = \overline{\zeta(s)}.$$
-  -/)
-  (proof := /--
-    This follows as an immediate corollary of Theorem \ref{conj_riemannZeta_conj}.
-  -/)]
-theorem riemannZeta_conj (s : ℂ) : riemannZeta (conj s) = conj (riemannZeta s) := by
```
Comment (ldct) [inline PrimeNumberTheoremAnd/ZetaConj.lean:115]: upstreamed in https://github.com/leanprover-community/mathlib4/pull/41133

File: PrimeNumberTheoremAnd/Mathlib/Analysis/Complex/CartanBound.lean [hunk 4]
```diff
@@ -386,7 +386,7 @@ lemma intervalIntegrable_phi_dyadic_small {A : ℝ} (hA0 : 0 ≤ A)
     IntervalIntegrable φ volume A (2 * A) := by
   have hA_le : A ≤ 2 * A := by nlinarith
   have hconst : IntervalIntegrable (fun _ : ℝ => (Real.log 2 : ℝ)) volume A (2 * A) :=
-    intervalIntegral.intervalIntegrable_const
```
Comment (ldct) [inline PrimeNumberTheoremAnd/Mathlib/Analysis/Complex/CartanBound.lean:389]: these were de-duplicated in Mathlib: https://github.com/leanprover-community/mathlib4/pull/40870

File: PrimeNumberTheoremAnd/MellinCalculus.lean [hunk 5]
```diff
@@ -122,7 +122,7 @@ lemma Function.support_deriv_subset_Icc {a b : ℝ} {f : ℝ → 𝕂}
     rwa [closure_Icc] at this
 
 lemma IntervalIntegral.integral_eq_integral_of_support_subset_Icc {a b : ℝ} {μ : Measure ℝ}
-    [NoAtoms μ] {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
+    [NullSingletonClass μ] {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
```
Comment (ldct) [inline PrimeNumberTheoremAnd/MellinCalculus.lean:125]: `NoAtoms` was renamed to `NullSingletonClass` in mathlib [#40809](https://github.com/leanprover-community/mathlib4/pull/40809).

File: PrimeNumberTheoremAnd/Mathlib/Analysis/Complex/DivisorConvergence.lean [hunk 6]
```diff
@@ -82,8 +82,8 @@ lemma divisorZeroIndex₀_norm_le_finite {f : ℂ → ℂ} {U : Set ℂ} (B : 
     (hBU : Metric.closedBall (0 : ℂ) B ⊆ U) :
     ({p : divisorZeroIndex₀ f U | ‖divisorZeroIndex₀_val p‖ ≤ B} : Set _).Finite := by
   let s : Set (divisorZeroIndex₀ f U) := {p | ‖divisorZeroIndex₀_val p‖ ≤ B}
-  haveI : Finite (↥s) := by
-    simpa [s] using (finite_divisorZeroIndex₀_subtype_norm_le (f := f) (U := U) B hBU)
+  haveI : Finite (↥s) :=
+    finite_divisorZeroIndex₀_subtype_norm_le (f := f) (U := U) B hBU
```
Comment (ldct) [inline PrimeNumberTheoremAnd/Mathlib/Analysis/Complex/DivisorConvergence.lean:86]: v4.32 changed simp's normal form for set/subtype coercion, so `simpa [s]` no longer matched `Finite {p // …}` against `Finite ↥s`. They're defeq, so a plain `exact` works.

File: PrimeNumberTheoremAnd/Mathlib/Analysis/Complex/DivisorConvergence.lean [hunk 7]
```diff
@@ -239,7 +239,7 @@ theorem hasProdUniformlyOn_divisorCanonicalProduct_univ
       simpa [div_eq_mul_inv] using! (continuous_id.mul continuous_const)
     have hcont : Continuous fun z : ℂ => weierstrassFactor m (z / divisorZeroIndex₀_val p) :=
       hcontE.comp hdiv
-    simpa [g] using hcont.continuousOn.sub continuous_const.continuousOn
+    simpa only [g] using hcont.continuousOn.fun_sub continuous_const.continuousOn
```
Comment (ldct) [inline PrimeNumberTheoremAnd/Mathlib/Analysis/Complex/DivisorConvergence.lean:242]: `ContinuousOn.sub` yields the point-free `f - g`, which v4.32's simp no longer reconciles with the goal's `fun z ↦ … - …`. Switched to the pointwise `.fun_sub`, the `@[to_fun]`-generated variant added in mathlib [#40872](https://github.com/leanprover-community/mathlib4/pull/40872).

File: PrimeNumberTheoremAnd/IEANTN/RosserSchoenfeld/RosserSchoenfeldPrime.lean [hunk 8]
```diff
@@ -139,7 +140,6 @@ lemma theta_two : θ 2 = Real.log 2 := by
 
 lemma leftLim_theta_succ (k : ℕ) : Function.leftLim θ (k + 1) = θ k := by
   rw [leftLim_eq_of_tendsto (y := θ ↑k)]
```
Comment (ldct) [inline PrimeNumberTheoremAnd/IEANTN/RosserSchoenfeld/RosserSchoenfeldPrime.lean:140]: Mathlib [#41079](https://github.com/leanprover-community/mathlib4/pull/41079) made `leftLim_eq_of_tendsto`'s left-neighborhood `NeBot` hypothesis an instance-implicit argument, so this `rw` no longer emits a `NeBot` side goal — hence the removal of the `· exact Filter.NeBot.ne'` bullet.

File: PrimeNumberTheoremAnd/IEANTN/ZetaAppendix.lean [hunk 9]
```diff
@@ -5061,7 +5061,8 @@ lemma proposition_dadaro_b_tendsto_zero_atTop {s : ℂ} (hsigma : 0 < s.re) : Te
           rw [norm_div, norm_pow]; norm_num
         have h2 : ‖x ^ 3 / 6 - (x - Complex.sin x)‖ ≤ ‖x‖ ^ 4 * (5 / 96) := by
           have heq : x ^ 3 / 6 - (x - Complex.sin x) = Complex.sin x - (x - x ^ 3 / 6) := by ring
-          exact heq ▸ hbound
+          rw [heq]
+          exact hbound.trans (by nlinarith [pow_nonneg (norm_nonneg x) 4, hxn])
```
Comment (ldct) [inline PrimeNumberTheoremAnd/IEANTN/ZetaAppendix.lean:5065]: Mathlib [#41094](https://github.com/leanprover-community/mathlib4/pull/41094) tightened `Complex.sin_bound` from `‖x‖^4 * (5/96)` to `‖x‖^5 / 100`, so `heq ▸ hbound` no longer closes the old `‖x‖^4 * (5/96)` goal directly; this `nlinarith` step bridges from the tighter bound (using `‖x‖ ≤ 1`).

Comment (ldct) [reply PrimeNumberTheoremAnd/IEANTN/ZetaAppendix.lean:5065]: this entire file might benefit from splitting out some intermediate lemmas

File: PrimeNumberTheoremAnd/IEANTN/RosserSchoenfeld/RosserSchoenfeldPrime.lean [hunk 10]
```diff
@@ -98,10 +98,11 @@ theorem pnt : ∃ C ≥ 0, ∀ x ≥ 2, |θ x - x| ≤ C * x / log x ^ 2 := by
       calc
       _ ≤ (θ N + N) * log x ^ 2 / x := by gcongr
       _ ≤ (θ N + N) * (x ^ (1 / 2 : ℝ) / (1 / 2)) ^ 2 / x := by
-        gcongr
-        · exact add_nonneg (theta_nonneg _) (by linarith)
-        · exact log_nonneg (by linarith)
-        · exact log_le_rpow_div (by linarith) (by linarith)
+        gcongr <;>
```
Comment (ldct) [inline PrimeNumberTheoremAnd/IEANTN/RosserSchoenfeld/RosserSchoenfeldPrime.lean]: v4.32 `gcongr` now auto-discharges the `0 ≤ θ N + N` side goal — mathlib [#41334](https://github.com/leanprover-community/mathlib4/pull/41334) added a `positivity` extension for `Chebyshev.theta`, so the side-goal count/order changed and the fixed `·` bullets were replaced by an order-robust `<;> first`.

File: PrimeNumberTheoremAnd/IEANTN/Chebyshev.lean [hunk 11]
```diff
@@ -292,7 +292,6 @@ theorem psi_ge_weighted (x : ℝ) (hx : x > 0) : ψ x ≥ U x := by
   gcongr with i
```
Comment (ldct) [inline PrimeNumberTheoremAnd/IEANTN/Chebyshev.lean:292]: v4.32 `gcongr` now auto-discharges the `0 ≤ Λ i` side goal — mathlib [#41334](https://github.com/leanprover-community/mathlib4/pull/41334) added a `positivity` extension for `ArithmeticFunction.vonMangoldt` — so the trailing `exact vonMangoldt_nonneg` was removed here.

File: PrimeNumberTheoremAnd/IEANTN/Mertens.lean [hunk 12]
```diff
@@ -535,8 +491,7 @@ theorem E₁Λ.ge {x : ℝ} (hx : 1 ≤ x) :
     ring_nf
   _ ≥ ∑ d ∈ Ioc 0 ⌊x⌋₊, Λ d * ⌊x / d⌋₊ := by
     gcongr
```
Comment (ldct) [inline PrimeNumberTheoremAnd/IEANTN/Mertens.lean:493]: v4.32 `gcongr` now auto-discharges the `0 ≤ Λ d` side goal — mathlib [#41334](https://github.com/leanprover-community/mathlib4/pull/41334) added a `positivity` extension for `ArithmeticFunction.vonMangoldt` — so the `· exact vonMangoldt_nonneg` bullet was removed here (same in `E₁Λ.le` below).

File: PrimeNumberTheoremAnd/IEANTN/BKLNW/BKLNW_app.lean [hunk 13]
```diff
@@ -844,10 +844,10 @@ lemma continuous_besselI0 : Continuous besselI0 := by
   have hb : |x / 2| ≤ (|x₀| + 1) / 2 := by
     rw [abs_div, abs_two]
     linarith
-  rw [Real.norm_eq_abs, abs_div, abs_pow,
-    abs_of_nonneg (by positivity : (0 : ℝ) ≤ ((m.factorial : ℝ)) ^ 2)]
+  simp only [Pi.pow_apply, id_eq]
+  rw [Real.norm_eq_abs, abs_div, abs_pow, abs_pow,
+    abs_of_nonneg (by positivity : (0 : ℝ) ≤ ((m.factorial : ℝ)))]
   gcongr
```
Comment (ldct) [inline PrimeNumberTheoremAnd/IEANTN/BKLNW/BKLNW_app.lean:850]: Unlike the other `gcongr` fixes in this PR, this one is not the new nonnegativity auto-discharge: in v4.31 the goal contained `id x` (from `continuous_id.div_const`), which blocked `gcongr` from closing the main goal with `hb` under reducible defeq; the new `simp only [Pi.pow_apply, id_eq]` (needed for the v4.32 Pi-form combinators) strips the `id`, so `gcongr` now discharges the main goal from `hb` itself and the trailing `exact hb` was removed.

File: PrimeNumberTheoremAnd/Mathlib/NumberTheory/LSeries/RiemannZetaPartialSum.lean [hunk 14]
```diff
@@ -142,10 +142,7 @@ private lemma cpow_integral (s : ℂ) (hs : s ≠ 1) (N : ℕ) (hN : 1 ≤ N) :
       = s * (((N : ℂ) ^ ((-s) + 1) - (1 : ℂ) ^ ((-s) + 1)) / ((-s) + 1)) := by
         simpa using congrArg (s * ·) hint
       _ = s * (((N : ℂ) ^ (1 - s) - 1) / (1 - s)) := by
-        congr 1
-        field_simp
-        ring_nf
-        simp [sub_eq_add_neg]
+        rw [one_cpow, show (1 : ℂ) - s = -s + 1 from by ring]
```
Comment (ldct) [inline PrimeNumberTheoremAnd/Mathlib/NumberTheory/LSeries/RiemannZetaPartialSum.lean:145]: This broke because mathlib [#35394](https://github.com/leanprover-community/mathlib4/pull/35394) made `positivity` work on types without a `PartialOrder` — so on ℂ it now proves `1 - s ≠ 0` from `hs : s ≠ 1` (`sub_ne_zero_of_ne`), whereas on v4.31 it failed with `failed to synthesize PartialOrder ℂ`. `field_simp` itself is unchanged, but its `≠ 0` discharger (which calls `positivity`) thereby got stronger: it now certifies the `1 - s` denominator but not the `-s + 1` form, so the old `congr 1; field_simp; ring_nf; simp` chain clears only one side and leaves a residual `ring` cannot close. (On v4.31 neither denominator was certified, so both sides stayed symmetric and `ring_nf` closed it — the old proof never even used `hs`.) Rewritten to make both denominators syntactically identical via `one_cpow` + `show (1:ℂ) - s = -s + 1`, sidestepping the discharger entirely.

**Review by teorth — APPROVED** [review]
